US06265415B1
Synthesis of 3-(2,6-dimethylbenzyloxy)-5-methyl-2-nitropyridine
To 0.52 g (8.02 mmol) of 87% KOH and 0.15 g q-iodide in 6 ml 95% ethanol was added a solution of 3-hydroxy-5-methyl-2-nitropyridine (1.2 g, 7.79 mmol) in 25 ml of ethanol. To the resulting suspension of the potassium salt was added dropwise a solution of 2,6-dimethyl benzylchloride (1.24 g, 8.02 mmol) in 13 ml of ethanol. The reaction mixture was refluxed for 1 h. More 87% KOH (0.16 g) and 2,6-dimethylbenzylchloride (0.38 g) were added. The reaction mixture was refluxed for additional 70 min. The mixture was filtered and the inorganic salts were washed with ethanol and methylene chloride. The organic layer was evaporated in vacuo. The residue was dissolved in methylene chloride, washed with aqueous NaHCO3, dried and evaporated in vacuo. The residue was suspended in ether/isopropanol and filtered to give 1.72 g (81%) of the title compound.

reactant | KOH | 8.02 mmol, 0.52 g | [OH-].[K+]
reactant | 3-hydroxy-5-methyl-2-nitropyridine | 7.79 mmol, 1.2 g | OC=1C(=NC=C(C1)C)[N+](=O)[O-] | C6H6N2O3
reactant | potassium | [K] | K
reactant | 2,6-dimethyl benzylchloride | 8.02 mmol, 1.24 g | CC1=C(CCl)C(=CC=C1)C | C9H11Cl
reactant | KOH | 0.16 g | [OH-].[K+]
reactant | 2,6-dimethylbenzylchloride | 0.38 g | CC1=C(CCl)C(=CC=C1)C | C9H11Cl
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 13 ml | C(C)O | C2H6O
product | 3-(2,6-dimethylbenzyloxy)-5-methyl-2-nitropyridine | 1.72 g, 81% | CC1=C(COC=2C(=NC=C(C2)C)[N+](=O)[O-])C(=CC=C1)C | C15H16N2O3
